US08629160B2
A solution of ethyl 2-bromo-2-phenylacetate (349 μl, 2.00 mmol) and 3-aminothiophene-2-carboxamide (284 mg, 2.00 mmol) in acetonitrile (2 ml) was heated under microwave irradiation at 100° C. for 1 hour. Acetonitrile was evaporated, and the residue was dissolved in EtOH (2 ml). Sodium hydroxide (80 mg, 2.00 mmol) was added, and the reaction mixture was stirred at room temperature for 24 hours. Then ethanol was evaporated, and the residue was taken up with water and washed with EtOAc. The pH of the aqueous phase was adjusted to 3 with HCl, and product was extracted with EtOAc. The organic phase was dried over Na2SO4, filtered and evaporated to dryness to obtain 2-(2-carbamoylthiophen-3-ylamino)-2-phenylacetic acid (389 mg, 70% yield), which was used in the next step without any further purification.

reactant | ethyl 2-bromo-2-phenylacetate | 2.00 mmol, 349 μl | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
reactant | 3-aminothiophene-2-carboxamide | 2.00 mmol, 284 mg | NC1=C(SC=C1)C(=O)N | C5H6N2OS
reactant | Sodium hydroxide | 2.00 mmol, 80 mg | [OH-].[Na+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2-(2-carbamoylthiophen-3-ylamino)-2-phenylacetic acid | 389 mg, 70% yield | C(N)(=O)C=1SC=CC1NC(C(=O)O)C1=CC=CC=C1 | C13H12N2O3S
